Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
(Pt. is a questionable historian)
HPI:Patient is a ___ year old male with reported hx of
PUD,HTN,anxiety, intermittent diarrhea, and known history >1
month of RUQ pain scheduled for cholecystectomy at
___ ___. Patient states he began having
nonbloody/nonbilious emesis and severe RUQ pain today which he
relates as similar to a panic attack. 

On presentation patient is in no acute distress yet anxious in
appearance. He continues to have tenderness in his RUQ 
tenderness
and is requesting definitive resolution of his symptoms. He
denies chest pain, SOB, or back pain. 

 
Past Medical History:
Past Medical History:
-HTN 
-Anxiety 
-Epididymitis?
-Testicular Torsion 
-PUD?

Past Surgical History:
-Orchiopexy?
 
Social History:
___
Family History:
-NC 

 
Physical Exam:
On admission:

Physical Exam:
Vitals:T:99.1, HR:80. BP:193/104, RR:16, sats: 100% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, Normal S1 and S2
PULM: Clear to auscultation, nonproductive cough 
ABD: Soft, nondistended, RUQ tenderness, normoactive bowel
sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

At discharge:
Patient left AMA 
 
Pertinent Results:
___ 06:08AM BLOOD WBC-5.8 RBC-3.97* Hgb-12.6* Hct-37.3* 
MCV-94 MCH-31.7 MCHC-33.8 RDW-13.5 RDWSD-46.1 Plt Ct-72*
___ 12:34PM BLOOD WBC-7.8 RBC-4.45* Hgb-14.0 Hct-41.1 
MCV-92 MCH-31.5 MCHC-34.1 RDW-13.5 RDWSD-45.9 Plt Ct-96*
___ 12:34PM BLOOD Neuts-68.2 Lymphs-15.8* Monos-11.6 
Eos-2.7 Baso-1.4* Im ___ AbsNeut-5.30 AbsLymp-1.23 
AbsMono-0.90* AbsEos-0.21 AbsBaso-0.11*
___ 06:08AM BLOOD Plt Ct-72*
___ 06:08AM BLOOD ___ PTT-32.1 ___
___ 12:34PM BLOOD Plt Smr-LOW* Plt Ct-96*
___ 12:34PM BLOOD ___ PTT-32.3 ___
___ 06:08AM BLOOD Glucose-75 UreaN-10 Creat-0.6 Na-143 
K-3.9 Cl-105 HCO3-25 AnGap-13
___ 12:34PM BLOOD Glucose-107* UreaN-6 Creat-0.8 Na-142 
K-6.4* Cl-101 HCO3-28 AnGap-13
___ 06:08AM BLOOD ALT-43* AST-111* AlkPhos-107 TotBili-2.9* 
DirBili-1.4* IndBili-1.5
___ 12:34PM BLOOD ALT-62* AST-205* AlkPhos-109 TotBili-2.3* 
DirBili-0.3 IndBili-2.0
___ 12:34PM BLOOD Lipase-46
___ 12:34PM BLOOD cTropnT-<0.01
___ 06:08AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.5*
___ 06:08PM BLOOD Lactate-2.0
___ 03:20PM BLOOD K-3.6
___ 12:50PM BLOOD Lactate-2.5*
 
Brief Hospital Course:
Patient presented to the ED on ___. ( See HPI)
Was admitted on to the ACS Service, he reported improvement of 
abdominal pain with PO oxycodone. On ___ he underwent an MRCP 
which showed: Sludge and stones within the gallbladder, but no 
evidence of acute cholecystitis.  No evidence of biliary 
dilatation or choledocholithiasis. Mild hepatic steatosis.  
Morphologic liver features suggesting cirrhosis.  No suspicious 
liver lesions Trace perihepatic ascites. Numerous small 
paraesophageal, upper mesenteric, and retroperitoneal lymph 
nodes, likely reactive to underlying liver disease. A hepatology 
consult was sent due to finding, they suggested the following 
labs should be drawn: ___, AMA,
___, IgG levels, ceruloplasmin, iron panel as well as HAV IgM 
(Given all viral hepatitis markers are negative except HAV Ab 
positive and patient and PCP office ___ sure if patient took 
HAV vaccine). They also suggested patient might end up needing a 
liver biopsy at a later stage to confirm diagnosis if needed. He 
was also scheduled to undergo an EGD ___ in order to rule out 
varices or signs of portal HTN.
On the night of ___, patient stated that he received a phone 
call his grandmother passed away in ___. He reported having to 
catch a midnight flight to ___ and decided to leave AMA. 

Patient was explained regarding the importance of staying and 
further work up for his liver cirrhosis but decided to leave the 
hospital. We advise the patient to please schedule a follow up 
appointment as soon as possible to continue work up for his 
underlying condition. 
 
Medications on Admission:
Lisinopril,Propranolol,Prilosec

 
Discharge Medications:
Patient left AMA 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RUQ pain , patient left AMA 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Patient left AMA 
 
Followup Instructions:
___